US09284323B2
To a stirring solution of (S)-ethyl 2-hydroxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate (560 mg, 1.42 mmol) in t-BuOAc (32.0 mL, 381 mmol) was added 4 drops (catalytic) of 70% HClO4 and the mixture allowed to stir at room temperature for 2 hrs. The mixture was quenched by dumping it into an icy solution of saturated NaHCO3. Extraction with EtOAc (3×20 mL), drying with sodium sulfate and subsequent chromatography on silica gel using EtOAc in Hexanes gave (S)-ethyl 2-tert-butoxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate. 1H-NMR: 400 MHz, (CDCl3): δ 8.06-8.03 (m, 1H); 7.81-7.78 (m, 1H); 7.67 (s, 1H); 7.59-7.53 (m, 2H); 5.73 (s, 1H); 4.25-4.10 (m, 2H); 2.55 (s, 3H); 1.21 (s, 9H), 1.17 (t, 3H).

reactant | (S)-ethyl 2-hydroxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | 1.42 mmol, 560 mg | O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)OS(=O)(=O)C(F)(F)F | C16H15F3O6S
reactant | t-BuOAc | 381 mmol, 32.0 mL | C(C)(C)(C)OC(=O)C | C6H12O2
catalyst | perchloric acid | 4 drops | Cl(=O)(=O)(=O)O | ClHO4
product | (S)-ethyl 2-tert-butoxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)OS(=O)(=O)C(F)(F)F | C20H23F3O6S
